US08283478B2
N-(benzo[b]thien-3-ylmethyl)-sulfamide (Compound #1)
Thianaphthene-3-carboxaldehyde (5 g, 30.8 mmol) was dissolved in anhydrous ethanol (50 mL). Sulfamide (12.22 g, 123.30 mmoles) and sulfamic acid (0.29 g, 3.08 mmoles) were added and the reaction mixture heated to 45° C. for 18 h. The reaction mixture was then cooled to room temperature. Sodium borohydride (1.2 g, 30.8 mmol) was added and the reaction mixture was stirred for 1 hour. 1N HCl (30 mL, 30 mmol) was added and the reaction mixture was filtered through Celite. The filtered solution was then diluted with water (100 mL). The precipitate was filtered to yield the title compound as a off white solid.

reactant | Thianaphthene-3-carboxaldehyde | 30.8 mmol, 5 g | C1=CC=C2C(=C1)C(=CS2)C=O | C9H6OS
reactant | Sulfamide | 123.30 mmoles, 12.22 g | S(=O)(=O)(N)N | H4N2O2S
reactant | sulfamic acid | 3.08 mmoles, 0.29 g | S(N)(O)(=O)=O | H3NO3S
reactant | Sodium borohydride | 30.8 mmol, 1.2 g | [BH4-].[Na+]
reactant | HCl | 30 mmol, 1N, 30 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | N-(benzo[b]thien-3-ylmethyl)-sulfamide | S1C2=C(C(=C1)CNS(=O)(=O)N)C=CC=C2 | C9H10N2O2S2
